US06395939B1
Likewise, 6-bromo-5-ethyl-1-(phenoxymethyl)-uracil and 3-pyridinethiol can be reacted according to the present method in order to yield a 5-ethyl-1-(phenoxymethyl)-6-(3-pyridylsulfanyl)-uracil.

reactant | 6-bromo-5-ethyl-1-(phenoxymethyl)-uracil | BrC1=C(C(NC(N1COC1=CC=CC=C1)=O)=O)CC | C13H13BrN2O3
reactant | 3-pyridinethiol | N1=CC(=CC=C1)S | C5H5NS
product | 5-ethyl-1-(phenoxymethyl)-6-(3-pyridylsulfanyl)-uracil | C(C)C=1C(NC(N(C1SC=1C=NC=CC1)COC1=CC=CC=C1)=O)=O | C18H17N3O3S
